US05135838
Synthesis of 2-(trifluoromethyl)-6-nitrobenzyl iodide
A 200 mL round bottomed flask was charge under dry nitrogen with 35.08 g of 2-(trifluoromethyl)-6-nitrobenzyl tosylate dissolved in 100 mL of dry acetone. To this was added slowly with cooling 28.06 g of anhydrous sodium iodide dissolved in 75 mL of dry acetone. This reaction mixture was stirred overnight at room temperature. The mixture was stripped of acetone under vacuum redissolved in methylene chloride and filtered. The filtrate was extracted with 50 mL of distilled water, dried over anhydrous magnesium sulfate, filtered and the solvent removed under vacuum. By this procedure 29.92 g (97% yield) of product was obtained.

reactant | 2-(trifluoromethyl)-6-nitrobenzyl tosylate | 35.08 g | S(=O)(=O)(OCC1=C(C=CC=C1[N+](=O)[O-])C(F)(F)F)C1=CC=C(C)C=C1 | C15H12F3NO5S
reactant | sodium iodide | 28.06 g | [I-].[Na+]
solvent | acetone | 100 mL | CC(=O)C | C3H6O
solvent | acetone | 75 mL | CC(=O)C | C3H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(trifluoromethyl)-6-nitrobenzyl iodide | 29.92 g, 97% yield | FC(C1=C(CI)C(=CC=C1)[N+](=O)[O-])(F)F | C8H5F3INO2
